US04141901
To a solution of sodium iodide (1.51 g) in acetonitrile (30 ml), 5-chloro-2-(3-carbobenzoxyaminomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone (5.0 g) is added, and the resultant mixture is stirred at room temperature for 18 hours. The reaction mixture is poured into water (100 ml) and shaken with benzene (50 ml) twice. The benzene layer is washed with water (100 ml) twice, dried over magnesium sulfate and evaporated under reduced pressure to remove the benzene. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate to give 5-chloro-2-(3-carbobenzoxyaminomethyl-5-iodomethyl-4H-1,2,4-triazol-4-yl)-benzophenone (3.61 g). The product is recrystallized from methylene chloride/ether to give crystals melting at 133° to 134° C. (decomp.).

reactant | sodium iodide | 1.51 g | [I-].[Na+]
reactant | 5-chloro-2-(3-carbobenzoxyaminomethyl-5-chloromethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 5.0 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CCl)CNC(=O)OCC1=CC=CC=C1 | C25H20Cl2N4O3
reactant | water | 100 ml | O | H2O
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-chloro-2-(3-carbobenzoxyaminomethyl-5-iodomethyl-4H-1,2,4-triazol-4-yl)-benzophenone | 3.61 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CI)CNC(=O)OCC1=CC=CC=C1 | C25H20ClIN4O3
